### PR TITLE
[Merged by Bors] - feat(LinearAlgebra/AffineSpace): add commutativity lemmas for line parallelism

### PR DESCRIPTION
**Pull request by Scarlett-le**
Adds three lemmas showing that parallelism between lines defined by point pairs is invariant under reversing the order of points.

### CODE REVIEW

File: Mathlib/LinearAlgebra/AffineSpace/AffineSubspace/Basic.lean [hunk 1]
```diff
@@ -837,44 +837,16 @@ theorem affineSpan_pair_parallel_iff_vectorSpan_eq {p₁ p₂ p₃ p₄ : P} :
...
-contained in the second line and does not equal the first point. -/
-lemma affineSpan_pair_eq_of_right_mem_of_ne {p₁ p₂ p₃ : P} (h : p₁ ∈ line[k, p₂, p₃])
-    (hne : p₁ ≠ p₂) :
-    line[k, p₂, p₁] = line[k, p₂, p₃] :=
-  affineSpan_pair_eq_of_mem_of_mem_of_ne (left_mem_affineSpan_pair _ _ _) h hne.symm
-
-end DivisionRing
+theorem affineSpan_pair_parallel_comm {p₁ p₂ p₃ p₄ : P} :
+    line[k, p₁, p₂] ∥ line[k, p₃, p₄] ↔ line[k, p₂, p₁] ∥ line[k, p₄, p₃] := by
+  simp only [affineSpan_pair_parallel_iff_vectorSpan_eq, Set.pair_comm]
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/AffineSpace/AffineSubspace/Basic.lean]: I'm not convinced these are the right lemmas. There is nothing unique parallelism here, it's just that the lines are the same. I think instead we should add:
```lean
theorem affineSpan_pair_comm (p₁ p₂ : P) :
    line[k, p₁, p₂] = line[k, p₂, p₁] := by
  rw [Set.pair_comm]
```

Comment (Scarlett-le) [reply Mathlib/LinearAlgebra/AffineSpace/AffineSubspace/Basic.lean]: Thanks for the review! You're right — my original lemmas are redundant since they just follow from the equality of lines. Once we have `affineSpan_pair_comm`， the parallel results are trivial.
